US06194487B1
Next, the mixed vapor of 2-mercaptoethanol and triethanolamine in the condensing chamber 2 was adiabatically expanded, and the introduced modified particles (37) were exposed thereto for 30 minutes. Consequently, a further polymerization reaction, using triethanolamine as a catalyst, took place on the surface of the modified particles (37) between 2,4-mesitylenedisulfonyl chloride and 2-mercaptoethanol, forming a film of 2,4-mesitylenedisulfonylchloride-2-mercaptoethanol co-polymer.

reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
reactant | 2,4-mesitylenedisulfonyl chloride | C1(=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)S(=O)(=O)Cl)C | C9H10Cl2O4S2
catalyst | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
product | 2,4-mesitylenedisulfonylchloride 2-mercaptoethanol | C1(=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)S(=O)(=O)Cl)C.SCCO | InChI=1S/C9H10Cl2O4S2.C2H6OS/c1-5-4-6(2)9(17(11,14)15)7(3)8(5)16(10,12)13;3-1-2-4/h4H,1-3H3;3-4H,1-2H2
